US08193236B2
5,5,5-Trifluoro-4-oxo-pentanoic acid ethyl ester
In a one-necked round-bottomed flask equipped with a distillation head and cooler, a mixture of 2-(2,2,2-trifluoro-acetyl)-succinic acid diethyl ester (54.6 g, 202 mmol) and boronic acid (12.5 g, 202 mmol) is heated to 170° C. Heating is continued for4 h, during which time ethanol is gradually distilled off as it is formed. After cooling to room temperature, the reaction mixture is poured onto ice and extracted twice with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4 and concentrated at reduced pressure to afford a brown oil. The crude product is purified by distillation (60° C., 10 mbar) to afford the title compound as a colorless liquid (17.3 g, 87.3 mmol, 43%). 1H NMR (400 MHz, CDCl3, 298 K): δ=4.15 (q, J=7.1 Hz, 2H), 3.02 (t, J=6.4 Hz, 2H), 2.70 (t, J=6.4 Hz, 2H), 1.45 (t, J=7.1 Hz, 3H). MS (ES+): 199 (M(C7H9F3O3)+H)+.

reactant | 2-(2,2,2-trifluoro-acetyl)-succinic acid diethyl ester | 202 mmol, 54.6 g | C(C)OC(C(CC(=O)OCC)C(C(F)(F)F)=O)=O | C10H13F3O5
reactant | boronic acid | 202 mmol, 12.5 g | B(O)O | BH3O2
solvent | ethanol | C(C)O | C2H6O
product | 5,5,5-Trifluoro-4-oxo-pentanoic acid ethyl ester | 87.3 mmol, 17.3 g, 43% | C(C)OC(CCC(C(F)(F)F)=O)=O | C7H9F3O3
